US04625040
Preparation of N-(m-Nitrophenyl)-2,5-dihydro-2-oxo-4-phenylamino-3-furancarboxamide
The title derivative was prepared by a procedure similar to that described in Example 8 starting with 2-[(m-nitrophenyl)amino]-4-oxo-3-furoic acid (7.4 grams, 0.028 mol), BOP-Cl (7.13 grams, 0.028 mol) and aniline (2.58 ml, 0.025 mol) dissolved in 90 ml methylene chloride. Yield: 6.71 g, mp 194°-195° C. (R2 =C6H4NO2 --m).

reactant | 2-[(m-nitrophenyl)amino]-4-oxo-3-furoic acid | 0.028 mol, 7.4 grams | [N+](=O)([O-])C=1C=C(C=CC1)NC=1OCC(C1C(=O)O)=O | C11H8N2O6
reactant | BOP-Cl | 0.028 mol, 7.13 grams | C1COC(=O)N1P(=O)(N2CCOC2=O)Cl | C6H8ClN2O5P
reactant | aniline | 0.025 mol, 2.58 ml | NC1=CC=CC=C1 | C6H7N
solvent | methylene chloride | 90 ml | C(Cl)Cl | CH2Cl2
product | N-(m-Nitrophenyl)-2,5-dihydro-2-oxo-4-phenylamino-3-furancarboxamide | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)C=1C(OCC1NC1=CC=CC=C1)=O | C17H13N3O5
